US04431576
Using the procedure of Example 3, 6 g of (1R,cis) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylic acid chloride and 2.7 ml of isopropanol were reacted to obtain 1.96 g of isopropyl (1R,cis) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =-39°±5° (c=0.2% in benzene).

reactant | (1R,cis) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylic acid chloride | 6 g | CC1([C@@H]([C@@H]1\C=C\C(C)=O)C(=O)Cl)C | C10H13ClO2
reactant | isopropanol | 2.7 ml | C(C)(C)O | C3H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | isopropyl (1R,cis) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylate | 1.96 g | CC1([C@@H]([C@@H]1\C=C\C(C)=O)C(=O)OC(C)C)C | C13H20O3
